US06310099B1
A mixture of 100 g (0.32 mol) of N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-methylaniline and 110 g (0.82 mol) of aluminum chloride in 400 ml of 1,2-dichlorobenzene is stirred vigorously and heated to 140° for 7.5 hours. The reaction is cooled to room temperature and added to a mixture of 100 ml of 12N HCl and 700 ml of water (cooled to 0-5° in a dry ice/acetone bath). The mixture is extracted twice with 400 ml of methylene chloride and the combined organic layers are washed with 600 ml of 3N HCl. The organic layer is stirred with 66 g of magnesium sulfate and 33 g of charcoal (DARCO G-60). The solids are filtered through a pad of Celite and the solvents are evaporated under reduced pressure to give a tan solid which is recrystallized from ethanol to give N-(2′-chloro-6′-fluorophenyl)-5-methyloxindole, m.p. 137-140°.

reactant | N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-methylaniline | 0.32 mol, 100 g | ClC1=C(C(=CC=C1)F)N(C1=CC=C(C=C1)C)C(CCl)=O | C15H12Cl2FNO
reactant | aluminum chloride | 0.82 mol, 110 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 12N, 100 ml | Cl | ClH
reactant | water | 700 ml | O | H2O
solvent | 1,2-dichlorobenzene | 400 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-(2′-chloro-6′-fluorophenyl)-5-methyloxindole | ClC1=C(C(=CC=C1)F)N1C(CC2=CC(=CC=C12)C)=O | C15H11ClFNO
